US05886025
Synthesis of 3-[3'(3",4",5"-trimethoxyphenyl)propionyl]-2-(4'methoxyphenyl)-6-methoxybenzo[b]thiophene
To a well-stirred solution of 2-(4'-methoxyphenyl)-6-methoxybenzo[b]thiophene (0.206 g, 0.762 mmol) and 3-(3',4',5'-trimethoxyphenyl)propionyl chloride (0.390 g, 1.51 mmol) in CH2Cl2 (50 mL) was added AlCl3 (0.520 g, 3.89 mmol) portion-wise over a 15 minute period. After 18 hours (total reaction time), water was added, and the product was isolated initially by extraction with CH2Cl2 and subsequently by extraction with EtOAc. The organic layers were separately washed sequentially with NaHCO3 (sat) and brine and then combined and dried over MgSO4. Purification by flash chromatography (silica gel, 70:30 EtOAc/hexane) afforded the title compound as an off-white solid. 1H-NMR (CDCl3, 360 Mhz): δ=7.92 (d,J=8.9 Hz, 1H, ArH), 7.35 (d,J=8.7 Hz, 2H, ArH), 7.25 (m,1H, ArH), 7.04 (dd,J=8.9,2.4 Hz, 1H, ArH), 6.93 (d,J=8.7 Hz, 2H, ArH), 6.15 (s,2H, ArH) 3.88 (s,3H, --OCH3), 3.85 ((s,3H, --OCH3), 3.78 (s, 3H, --OCH3), 3.72 (s,6H, --OCH3), 3.80 (t,2H, CH2), 3.70 (t,2H, CH2).

reactant | 2-(4'-methoxyphenyl)-6-methoxybenzo[b]thiophene | 0.762 mmol, 0.206 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | 3-(3',4',5'-trimethoxyphenyl)propionyl chloride | 1.51 mmol, 0.390 g | COC=1C=C(C=C(C1OC)OC)CCC(=O)Cl | C12H15ClO4
reactant | AlCl3 | 3.89 mmol, 0.520 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[3'(3",4",5"-trimethoxyphenyl)propionyl]-2-(4'methoxyphenyl)-6-methoxybenzo[b]thiophene | COC=1C=C(C=C(C1OC)OC)CCC(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C28H28O6S
